US06498159B1
4-Chloro-3-methoxybenzylamine benzylamine hydrochloride synthesized according to the method described in WO9518097 and 1,4-dichlorophthalazine-6-carbonitrile were stirred at room temperature in 1-methyl-2-pyrrolidinone in the presence of DBU, whereby 1-chloro-4-[(4-chloro-3-methoxybenzyl)amino]-6-phthalazine carbonitrile was obtained as a less polar product.

reactant | 4-Chloro-3-methoxybenzylamine benzylamine hydrochloride | Cl.C(C1=CC=CC=C1)N.ClC1=C(C=C(CN)C=C1)OC
reactant | 1,4-dichlorophthalazine-6-carbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)Cl | C9H3Cl2N3
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-chloro-4-[(4-chloro-3-methoxybenzyl)amino]-6-phthalazine carbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)Cl)OC | C17H12Cl2N4O
